US07906541B2
285 mg of 9-[3,5-bis(trifluoromethyl)benzyl]-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride (0.632 mmol) were solubilised in methanol (40 mL), then 274 mg (8 eq) of NaOMe were added and the solution stirred at room temperature. After 48 h the solvent was evaporated, water was added (20 mL) and the mixture extracted with CH2Cl2 (3×20 mL). The organic layer was dried with MgSO4 and evaporated under reduced pressure to afford 1-[3,5-bis(trifluoromethyl)benzyl]-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one as a white powder (211 mg, 77%). Mp 148° C.; Rf=0.72 (CH2Cl2/AcOEt 8:2); 1H NMR (300 MHz, CDCl3) δ=2.18 (3H, d, J=1.1, CH3), 2.26 (3H, s, SCH3), 5.20 (2H, brs, CH2), 6.31 (1H, q, J=1.1, H5), 6.82-7.15 (4H, m, Ar), 7.75 (3H, brs, Ar); 13C NMR (75 MHz, CDCl3) δ=16.79, 20.45, 43.95, 107.84, 109.41, 121.88, 121.88 (1C, sept, J=3), 122.00, 123.07 (2C, q, J=272), 126.34, 127.50 (2C, q, J=3), 127.94, 128.36, 128.78, 132.17 (2C, q, J=34), 139.07, 152.19; HRMS m/z C20H17F6N2OS [M+H]+ calcd: 447.0960, found: 447.0959.

reactant | 9-[3,5-bis(trifluoromethyl)benzyl]-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride | 0.632 mmol, 285 mg | [Cl-].FC(C=1C=C(C[N+]2=C3N(C4=C2C=CC=C4)C(=CS3)C)C=C(C1)C(F)(F)F)(F)F
reactant | NaOMe | 274 mg, 8 eq | C[O-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 1-[3,5-bis(trifluoromethyl)benzyl]-3-[(1Z)-1-(methylsulfanyl)prop-1-en-2-yl]-1,3-dihydro-2H-benzimidazol-2-one | 211 mg, 77% | FC(C=1C=C(CN2C(N(C3=C2C=CC=C3)\C(=C/SC)\C)=O)C=C(C1)C(F)(F)F)(F)F | C20H16F6N2OS
